US06846827B1
4-[2-Methyl-5-(3-morpholinobenzamido)anilino]-2-[2-(N-methylpyrrolidin-2-yl)ethylamino]pyrimidine
A mixture of 2-chloro-4-[2-methyl-5-(3-morpholinobenzamido)anilino]pyrimidine (0.64 g), 2-(N-methylpyrrolidin-2-ylethylamine (0.44 ml), N,N-di-isopropylethylamine (0.52 ml) and n-butanol (7 ml) was stirred and heated to 100° C. for 18 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent followed by increasingly polar mixtures of methylene chloride and methanol containing 1% aqueous ammonium hydroxide solution. There was thus obtained the title compound as a solid (0.33 g); NMR Spectrum: (DMSOd6) 1.44 (m, 2H), 1.62 (m, 2H), 1.88 (m, 2H), 2.15 (s, 3H), 2.31 (m, 4H), 3.04 (m, 2H), 3.17 (m, 5H), 3.74 (m, 4H), 5.88 (d, 1H), 6.5 (m, 1H), 7.13 (m, 2H), 7.34 (m, 2H), 7.44 (m, 2H), 7.77 (d, 1H), 7.9 (m, 1H), 8.37 (s, 1H), 10.04 (s, 1H); Mass Spectrum: M+H+ 516.

reactant | 2-chloro-4-[2-methyl-5-(3-morpholinobenzamido)anilino]pyrimidine | 0.64 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)C | C22H22ClN5O2
reactant | N-methylpyrrolidin-2-ylethylamine | 0.44 ml | CNCCC1NCCC1 | C7H16N2
reactant | N,N-di-isopropylethylamine | 0.52 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 7 ml | C(CCC)O | C4H10O
product | 4-[2-Methyl-5-(3-morpholinobenzamido)anilino]-2-[2-(N-methylpyrrolidin-2-yl)ethylamino]pyrimidine | 0.33 g | CC1=C(NC2=NC(=NC=C2)NCCC2N(CCC2)C)C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C29H37N7O2
